US07615330B2
In 300 ml of acetic acid was refluxed 20 g of thianthrene and 36 ml of diluted nitric acid was gradually added dropwise thereto. After reacting for 5 hours, the reaction solution was poured into 1.2 liters of water to deposit crystals. The crystals were collected by filtration and recrystallized from acetonitrile to obtain 12 g of thianthrene-S-oxide. 1H-NMR (400 MHz, CDCl3): σ 7.42 (t, 2H), 7.56 (t, 2H), 7.63 (d, 2H), 7.93 (d, 2H).

reactant | thianthrene | 20 g | C1=CC=CC=2SC3=CC=CC=C3SC12 | C12H8S2
reactant | nitric acid | 36 ml | [N+](=O)(O)[O-] | HNO3
reactant | water | 1.2 liters | O | H2O
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | thianthrene-S-oxide | 12 g | C1=CC=CC=2S(C3=CC=CC=C3SC12)=O | C12H8OS2
